US04489003
A mixture of 3.45 g (10 mmol) of ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate, 100 mg (1.5 mmol) of potassium cyanide and 20 ml of 2-methoxybenzyl alcohol is stirred at 110° for 36 hours, the resulting ethanol being removed in vacuo from time to time. The solvent is subsequently removed by distillation in a high vacuum and the residue is chromatographed on silica gel while eluting with ethyl acetate. By recrystallization from ethyl acetate/n-hexane there is obtained o-methoxybenzyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 178°-179°.

reactant | ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 10 mmol, 3.45 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC)CCC1)=O | C17H16ClN3O3
reactant | potassium cyanide | 1.5 mmol, 100 mg | [C-]#N.[K+]
solvent | 2-methoxybenzyl alcohol | 20 ml | COC1=C(CO)C=CC=C1 | C8H10O2
product | o-methoxybenzyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC3=C(C=CC=C3)OC)CCC1)=O | C23H20ClN3O4
